US05521173
10,11-Dihydro-10-[(4'-propyl[1,1'-biphenyl]-4-yl)carbonyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a stirred solution of 2.0 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 30 ml of methylene chloride, under nitrogen, while cooling to 0° C. is added dropwise 30 ml of triethylamine followed by a solution of 4'-(propyl)[1,1'-biphenyl]-4-carbonyl chloride in 10 ml of methylene dichloride. The reactants are stirred at room temperature for 16 hours. The reaction mixture is poured in ice water and extracted with methylene chloride (3×50 ml) The organic layer is, washed with water, 2N citric acid, saturated aqueous NaHCO3, water and dried (MgSO4) and evaporated in vacuo to give a residue which is purified by column chromatography on silica gel with ethyl acetate-hexane to give 1.4 g of the desired product as a crystalline solid, m.p. 118°-120° C. MS(M+H=407.3; M+Na=429.3)

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.0 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | 4'-(propyl)[1,1'-biphenyl]-4-carbonyl chloride | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C16H15ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-[(4'-propyl[1,1'-biphenyl]-4-yl)carbonyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.4 g | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C28H26N2O
